Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left Inguinal Pain / Left Lower Quadrant Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ PMH HTN, alcoholism, type A aortic dissection with residual 
type B dissection s/p repair and AVR in ___ at 
___ p/w left groin pain.  He relates that he was 
woken from sleep by left groin pain approximately two days prior 
to admission.  The pain improved over the course of ___ but 
was still present, so he presented to the ___ ED for 
evaluation.  He is followed at ___ by Vascular Surgery for his 
residual dissection, so he was concerned his pain was related to 
his dissection.  He relates that he was having loose stools that 
were a green-brown color, non-bloody.  He denies any traumatic 
injury.  He also denies numbness, weakness, and tingling in his 
extremities.  

He denies fevers, chills, nausea, vomiting, night sweats, weight 
loss, diarrhea, constipation, red or tarry stools, ___ edema, 
head ache, visual symptoms, CP, SOB.

He was seen by both ACS and Vascular Surgery in the ED.  CT scan 
in the ED showed stable aorta, but did not left sided 
diverticulitis.  Both services felt that his presentation was 
consistent with diverticulitis and that he did not require 
surgical intervention.  Vascular surgery recommended maintaining 
SBP < 120.

The pt does drink approximately 4 beers per day.  His last drink 
was 9 AM on ___.  He denies any knowledge of DTs or 
withdrawal seizures in the past.  He was detoxified in ___ during his aortic dissection hospitalization.  He currently 
denies symptoms of withdrawal.  He relates that he sometimes 
does go several days without alcohol and that he does not have 
problems with that.

In the ED, initial vitals were: 97.4, 56, 188/87, 18, 100% RA 
Exam notable for left groin tenderness
Imaging notable for diverticulitis of descending colon with no 
concern for microperforation
Patient was given 1 L NS, ciprofloxacin 400 mg IV, metronixazole 
500 mg IV.
He was admitted to the medical service for acute, mild, 
uncomplicated diverticulitis

On the floor, the pt relates that he has no abdominal pain and 
endorses a desire to have breakfast.  He notes that he was 
actually scheduled to have a routine follow-up ___ in a few 
weeks with his GI MD.

ROS: 10-point ROS negative except as noted above in HPI
 
Past Medical History:
- Type A Aortic Dissection s/p Repair with Residual Type B 
Aortic Dissection: ___ ___, emergency surgery 
after CP while shoveling snow
- Hypertension: On metoprolol succinate 50 mg daily at home
- Alcohol Abuse: 4 beers per day, denies knowledge of withdrawal 
seizures or DTs
- Inguinal Hernia Repair ___
- Orchiectomy at age ___
 
Social History:
___
Family History:
Aortic Dissection: Twin brother, possibly father
___ Cancer: Mother
 
Physical ___:
ADMISSION PHYSICAL EXAM:  
==========================
VS: 98.2 64 152/82 18 96%RA 
Gen:  NAD, sitting comfortably in chair, drinking coffee
HEENT:  No JVD
CV:  RRR, S1 and S2, HSM at RUSB
Pulm: Scattered occasional wheezes with good air movement
Abd:  BS+, soft, NT, ND, no rebound or guarding, no pulsatile 
mass
Ext:  Trace bilateral ___ pitting edema
Skin:  Scattered benign appearing nevi, no concerning eruptions
Neuro:  AOx3, no tongue fasciculation, no asterixis, no UE 
tremors
Psych:   Mood and affect appropriate

DISCHARGE PHYSICAL EXAM:
==============================
AVSS
NAD, sitting in chair, wearing home clothes, eating food
RRR
CTAB
soft, NT, ND, NABS
no edema
AAOx3, fluent speech
calm, appropriate

 
Pertinent Results:
ADMISSION LABS:
====================
___ 12:00AM BLOOD
WBC-8.0 Hgb-12.8* Hct-37.5* MCV-95 RDW-12.4 Plt ___
Neuts-59.2 ___ Monos-6.8 Eos-2.8 Baso-0.4 Im ___
___ PTT-29.8 ___
Glucose-111* UreaN-9 Creat-0.9 Na-129* K-3.5 Cl-96 HCO3-18* 
AnGap-19

___ 04:24AM BLOOD Lactate-1.0

MICROBIOLOGY:
====================
___ Blood culture x 2 sets: NGTD, final PENDING

DISCHARGE LABS:
====================
___ 11:00AM BLOOD
WBC-9.2 Hgb-13.9 Hct-40.5 MCV-96 RDW-12.6 Plt ___
Glucose-99 UreaN-8 Creat-0.8 Na-133 K-4.1 Cl-99 HCO3-23 AnGap-15 
Calcium-8.9 Phos-2.7 Mg-2.1

IMAGING:
====================
___ CTA Torso
IMPRESSION:
1. Acute uncomplicated left-sided diverticulitis, with 
inflammatory changes involving approximately 10 cm of descending 
colon.
2. Unchanged aortic dissection extending from the aortic arch to 
the left common iliac artery, now post repair.
3. No evidence of solid organ ischemia.
4. Small hiatal hernia.
5. Splenic hypodensities measuring up to 2.3 cm in size may 
represent cysts or hemangiomas, unchanged since ___.
 
Brief Hospital Course:
___ YOM with PMH of HTN, aortic dissection s/p repair, and EtOH 
abuse who presented with abdominal pain. He was found to have 
acute uncomplicated diverticulitis. He was started on 
ciprofloxacin and metronidazole for a two week course. His 
aortic dissection appeared stable. He displayed no evidence of 
alcohol withdrawal.

# Acute Uncomplicated Diverticulitis: On presentation, LLQ pain 
and imaging both consistent with acute uncomplicated 
diverticulitis.  Pt was afebrile and did not have a leukocytosis 
or elevated lactate.  On the floor, he had no abdominal pain.  
He tolerated a clear liquid breakfast without issue and had a 
normal BM after breakfast.  He was discharged on Ciprofloxacin 
500 mg PO BID x 14 days (D1 ___ and 
Metronidazole 500 mg PO TID x 14 days (D1 ___.  
He will have his Colonoscopy in 6 weeks (week of ___ or 
___.  He will follow up if he has increased abdominal pain, 
difficulty having BMs or passing flatus, bloody or tarry BMs.  
Of note, he was already previously scheduled to have an 
outpatient colonoscopy in a few weeks for routine follow-up.  We 
asked the patient to contact his GI MD and move his ___ 
back.

# Anemia: Pt presented with hgb 12.8. This was likely related to 
alcoholic myelosuppression and an inflammatory block on 
erythropoesis in the setting of acute diverticulitis.  Repeat 
hemoglobin was 13.9.

# Nonanion Gap Metabolic Acidosis: Bicarb was 18 in ED and anion 
gap was 15.  This was likely a result of decreased oral intake.  
After IVF, his repeat labs showed resolution of nonanion gap 
metabolic acidosis.

# Hyponatremia: Na 129 on presentation.  This was likely 
hypovolemic hyponatremia in setting of likely decreased PO 
intake with acute diverticulitis.  Pt got 1 L NS in ED and is 
tolerated oral intake.  His repeat Na was 133.

# Alcohol Abuse: Pt related drinking 4 beers per day.  His last 
drink was 9 AM ___.  He denied previous withdrawal seizures 
or DTs.  He denied current withdrawal symptoms.  He related that 
he sometimes goes several days without alcohol and does not have 
symptoms.  He displayed no evidence of alcohol withdrawal in the 
hospital.

# Type A Aortic Dissection s/p Repair with Residual Type B 
Aortic Dissection: Pt had repair of type A aortic dissection 
with AVR in ___.  He now has residual type B aortic 
dissection.  His mximum diameter was 5.1 cm.  Aortic dissection 
appeared stable on imaging.  He was on metoprolol succinate 50 
mg daily at home for BP control.  Goal BP SBP < 120 per vascular 
surgery.  He continued on his metoprolol, ASA 81, and 
atorvastatin.  Per vascular surgery, he requires follow up CTA 
in 6 months and follow up appointment with Dr. ___ in 6 
months.  He already has previously scheduled follow-up with Dr. 
___.
 
# HTN: Goal SBP < 120 per vascular surgery.  Pt on metoprolol 
succinate 50 mg daily and lisniopril 40 mg daily at home.  He 
continued on metoprolol and lisinoprl.

# Reactive airways: Continued home albuterol and mometasone 
inhalers

Transitional Issues:
-Pt discharged on Ciprofloxacin 500 mg PO BID x 14 days (D1 
___ and Metronidazole 500 mg PO TID x 14 days 
(D1 ___
-Pt requires colonoscopy in 6 weeks (week of ___ or ___
-Pt requires follow up CTA in 6 months and follow up appointment 
with Dr. ___ in 6 months per vascular surgery
-Pt's goal SBP should be less than 120 per vascular surgery
-Blood cultures from ___ pending. Please follow up results.
-Primary care office will contact pt to schedule a follow up 
appointment
-Contact: ___ (daughter) ___
-Code: Full (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Lisinopril 40 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Acetaminophen 650 mg PO Q4H:PRN pain 
5. Albuterol Inhaler 2 PUFF IH Q2H PRN wheezing 
6. Ascorbic Acid ___ mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 
9. mometasone 200 mcg/actuation inhalation BID 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain 
2. Albuterol Inhaler 2 PUFF IH Q2H PRN wheezing 
3. Ascorbic Acid ___ mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 20 mg PO QPM 
6. Vitamin D ___ UNIT PO DAILY 
7. Ciprofloxacin HCl 500 mg PO Q12H Duration: 14 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth Every 12 Hours 
Disp #*27 Tablet Refills:*0
8. MetroNIDAZOLE 500 mg PO TID Duration: 14 Days 
RX *metronidazole 500 mg 1 tablet(s) by mouth Every 8 Hours Disp 
#*40 Tablet Refills:*0
9. Metoprolol Succinate XL 50 mg PO DAILY 
10. mometasone 200 mcg/actuation inhalation BID 
11. Lisinopril 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Acute Uncomplicated Diverticulitis

Secondary Diagnoses:
Aortic Dissection
Hypertension
Anemia
Hyponatremia
Non anion gap metabolic acidosis
Alchohol abuse disorder
Reactive airway disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.  You were admitted to 
the hospital with abdominal pain.  The pain was found to be due 
to diverticulitis, which occurs when there is some inflammation 
in your digestive tract.  Your aortic dissection appeared 
unchanged.  You should now take two antibiotics, ciprofloxacin 
and metronidazole, for the next two weeks through ___ 
to treat your diverticulitis.  You will require a colonoscopy in 
six weeks (week of ___ or ___.  You also have a follow up 
CT Angiogram in 6 months and a follow up appointment with Dr. 
___ in 6 months.  You may advance your diet as you feel 
comfortable.  If you have worsening abdominal pain, an inability 
to move your bowels, or bloody or  tarry stools, please return 
to the hospital for further evaluation.  Thank you for allowing 
us to participate in your care.

Sincerely,

Your ___ Team
 
Followup Instructions:
___